US08802858B2
[(4-{2-[2-(4-Amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester
To a stirred solution of 0.06 g of N-BOC-glycine (CAS 4530-20-5) (0.34 mmol; 1.2 eq.) in 1 mL of N,N′-dimethylformamide are added 0.16 g of 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (0.43 mmol; 1.5 eq.) and 0.1 mL of triethylamine (0.71 mmol; 2.5 eq.) at room temperature. After stirring for 0.5 h at room temperature, a solution of 0.1 g of 2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-1-(4-amino-phenyl)-ethanone (CAS 798577-83-0) (0.28 mmol; 1 eq.) in 1 mL of N,N′-dimethylformamide is added. The reaction solution is stirred overnight at room temperature. Then, a solution of 0.03 g of N-BOC-glycine (0.17 mmol; 0.6 eq.) containing 0.08 g of 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU) (0.22 mmol; 0.75 eq.) and 0.05 mL of triethylamine (0.35 mmol; 1.25 eq.) in 0.5 mL of N,N′-dimethylformamide is added to the reaction solution at room temperature. The same mixture is added again after additional 24 h and additional 8 h. The reaction mixture is then further stirred for 64 h (total reaction time 120 h). The reaction mixture is diluted with ethyl acetate (10 mL) and then washed with water (10 mL), 10% citric acid aqueous solution (10 mL), brine (2×5 mL), dried over magnesium sulfate, filtered and concentrated to dryness to give crude product. The crude product is subjected to silica gel column chromatography (eluent: ethyl acetate/cyclohexane=1/1 to 4/1). The obtained material is recrystallized from dichloromethane to afford 0.085 g of the desired product as a white powder.

reactant | N-BOC-glycine | 0.34 mmol, 0.06 g, 1.2 eq. | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.43 mmol, 0.16 g, 1.5 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.71 mmol, 0.1 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2-[2-(4-amino-furazan-3-yl)-benzoimidazol-1-yl]-1-(4-amino-phenyl)-ethanone | 0.28 mmol, 0.1 g, 1 eq. | NC=1C(=NON1)C1=NC2=C(N1CC(=O)C1=CC=C(C=C1)N)C=CC=C2 | C17H14N6O2
reactant | N-BOC-glycine | 0.17 mmol, 0.03 g, 0.6 eq. | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.22 mmol, 0.08 g, 0.75 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 0.35 mmol, 0.05 mL, 1.25 eq. | C(C)N(CC)CC | C6H15N
solvent | N,N′-dimethylformamide | 1 mL | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 1 mL | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate cyclohexane | C(C)(=O)OCC.C1CCCCC1
product | [(4-{2-[2-(4-Amino-furazan-3-yl)-benzoimidazol-1-yl]-acetyl}-phenylcarbamoyl)-methyl]-carbamic acid tert-butyl ester | 0.085 g | C(C)(C)(C)OC(NCC(NC1=CC=C(C=C1)C(CN1C(=NC2=C1C=CC=C2)C2=NON=C2N)=O)=O)=O | C24H25N7O5
